US06664271B1
Commercially available ethyl nipecotate (509.7 mg; 3.25 mmol) was dissolved in dichloromethane (12 ml). Dilsopropylethylamine (570 μl; 3.27 mmol) was added, followed by commercially available benzyl bromide (386 μl; 3.25 mmol) and the mixture stirred at ambient temperature for approximately 20 hours. The mixture was then evaporated at ambient temperature under reduced pressure. The crude product was purified by chromatography on silica eluting with 80% ethyl acetate in hexane, giving ethyl 1-benzyl-3-piperidinecarboxylate (634.4 mg) as a colorless oil. MS m/z (positive ion) 248 (MH+; 100).

reactant | ethyl nipecotate | 3.25 mmol, 509.7 mg | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | benzyl bromide | 3.25 mmol, 386 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | ethyl 1-benzyl-3-piperidinecarboxylate | 634.4 mg | C(C1=CC=CC=C1)N1CC(CCC1)C(=O)OCC | C15H21NO2
